US06207680B1
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (1.88 g, mmol), K2CO3 (0.8 g) and 1-[4-(3-bromopropoxy)-3-methylmercaptophenyl]ethanone (2.3 g, 7.6 mmol) in acetonitrile (100 mmol) was heated at reflux for hours. At the end of the reaction, the solvent was concentrated, then diluted with dichloromethane (250 ml). The insolubles were filtered off. The dichloromethane solution was concentrated to dryness as an oil. Purification was effected by flash chromatography on a silica gel column (SiO2, 54 g, eluted with dichioromethane, 500 ml; 1% methanol-dichloromethane, 1.1 l). The purest fractions were combined to give a colorless oil which solidified to an off-white solid (2.4 g). Recrystallization from ethanol (100 ml) yielded 1-[4-[3-[4-(6-fluoro-1,2-benzoisoxazol-3-yl]-1-piperidinyl]propoxy]-3-methylmercaptophenyl]ethanone as off-white needle crystals, 2.15 g, m.p.=150-152° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 1.88 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 0.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-bromopropoxy)-3-methylmercaptophenyl]ethanone | 7.6 mmol, 2.3 g | BrCCCOC1=C(C=C(C=C1)C(C)=O)SC | C12H15BrO2S
reactant | acetonitrile | 100 mmol | C(C)#N | C2H3N
product | 1-[4-[3-[4-(6-fluoro-1,2-benzoisoxazol-3-yl]-1-piperidinyl]propoxy]-3-methylmercaptophenyl]ethanone | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)C(C)=O)SC)C=C1 | C24H27FN2O3S
